US06982348B2
N-((1RS,2SR)-1-((4-fluorophenyl)methyl)-2-hydroxy-2-(4-(trifluoromethyl)phenyl)ethyl)cyclohexanecarboxamide
To a solution of (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in ethyl acetate (15 ml) were added cyclohexanecarbonyl chloride (288 ml, 2.15 mmol) and saturated aqueous sodium hydrogen carbonate (15 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the title compound (550 mg, 90%).

reactant | (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)F | C16H15F4NO
reactant | cyclohexanecarbonyl chloride | 2.15 mmol, 288 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-1-((4-fluorophenyl)methyl)-2-hydroxy-2-(4-(trifluoromethyl)phenyl)ethyl)cyclohexanecarboxamide | 550 mg, 90% | FC1=CC=C(C=C1)CC(C(C1=CC=C(C=C1)C(F)(F)F)O)NC(=O)C1CCCCC1 | C23H25F4NO2
